US08802679B2
Piperazine (1.13 g) and 2-chloro-6-methylnicotinonitrile (500 mg) were dissolved in DMF (15 ml), and K2CO3 (1.36 g) was added thereto, followed by stirring at 60° C. overnight. The reaction mixture was concentrated under reduced pressure, and then a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4, and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain 6-methyl-2-piperazin-1-ylnicotinonitrile (628 mg).

reactant | Piperazine | 1.13 g | N1CCNCC1 | C4H10N2
reactant | 2-chloro-6-methylnicotinonitrile | 500 mg | ClC1=C(C#N)C=CC(=N1)C | C7H5ClN2
reactant | K2CO3 | 1.36 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-methyl-2-piperazin-1-ylnicotinonitrile | 628 mg | CC1=NC(=C(C#N)C=C1)N1CCNCC1 | C11H14N4
